US08664228B2
Step 2: N*2*-(2,4-Dimethoxy-benzyl)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentane-1,2-diamine
To a solution of 2-(2,4-dimethoxy-benzylamino)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentanenitrile (513 mg, 1.12 mmol) in diethyl ether (15 mL) under argon is slowly added lithium aluminium hydride (2.25 mL of a 1.0 M solution in diethyl ether, 2.25 mmol). The resulting reaction mixture is stirred at RT for 3 h, then is left standing at RT overnight. Water (0.1 mL) is added cautiously, followed by sodium hydroxide (0.2 mL of a 15% aqueous solution) and a further portion of water (0.1 mL). The reaction mixture is diluted with diethyl ether (5 mL) and then dried over MgSO4 and the solvent is concentrated in vacuo to afford the title compound as a pale yellow oil that is used without further purification. [M+H]+ 459.

reactant | 2-(2,4-dimethoxy-benzylamino)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentanenitrile | 1.12 mmol, 513 mg | COC1=C(CNC(C#N)CCCC2=CC=C(C=C2)OC[C@H]2OC(OC2)(C)C)C=CC(=C1)OC | C26H34N2O5
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 0.1 mL | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 0.1 mL | O | H2O
solvent | diethyl ether | 15 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | N*2*-(2,4-Dimethoxy-benzyl)-5-[4-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-phenyl]-pentane-1,2-diamine | COC1=C(CNC(CN)CCCC2=CC=C(C=C2)OC[C@H]2OC(OC2)(C)C)C=CC(=C1)OC | C26H38N2O5
